US04764522
A solution of 25.0 g of pyrazinecarboxylic acid in 300 ml of methylene chloride and 20.1 ml of ethyl chloroformate was treated dropwise at 0° within 1/2 hour with 31 ml of triethylamine. After 1/2 hour the solution obtained was added dropwise at 0° to 68 ml of ethylenediamine in 200 ml of methylene chloride and the mixture was left to stir further for 1 hour without external cooling. Thereafter, the precipitated material was filtered off and the filtrate was evaporated to dryness on a rotary evaporator under reduced pressure. The residue was recrystallized twice from isopropanol, whereby there was obtained N-(2-aminoethyl)pyrazine-2-carboxamide hydrochloride, m.p. 205°-207°.

reactant | pyrazinecarboxylic acid | 25.0 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | triethylamine | 31 ml | C(C)N(CC)CC | C6H15N
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl chloroformate | 20.1 ml | ClC(=O)OCC | C3H5ClO2
product | N-(2-aminoethyl)pyrazine-2-carboxamide hydrochloride | Cl.NCCNC(=O)C1=NC=CN=C1 | InChI=1S/C7H10N4O.ClH/c8-1-2-11-7(12)6-5-9-3-4-10-6;/h3-5H,1-2,8H2,(H,11,12);1H
